US07473783B2
To a stirring solution of 3-tert-Butyl-1H-pyrazolo[3,4-d]thiazol-5-ylamine (30 mg, 0.153 mmol) and pyridine (74 μL, 0.92 mmol), or alternatively PS-DMAP (Argonaut resin, 6 equiv.), in THF (0.75 mL) was added furan-2-carbonyl chloride (75 μL, 0.76 mmol). The reaction mixture was stirred at 70° C. for 23 h, then cooled to room temperature and treated with THF (1 mL) and PS-trisamine (Argonaut resin, 20 equiv.) for 2 h. The resin was filtered, washed with DMF and the solvent was evaporated. The residue was treated with MeOH (1 mL) and a 4N aqueous solution of NaOH (0.25 mL) and the solution was stirred at room temperature for 2 h. The reaction mixture was neutralized to pH 7 with a 1N aqueous solution of HCl and extracted with ethyl acetate (3×). Purification on silica gel with 0-10% MeOH in CH2Cl2 as eluent provided 36 mg (82%) of furan-2-carboxylic acid (3-tert-butyl-1H-pyrazolo[3,4-d]thiazol-5-yl)-amide as an off-white solid. 1H-NMR (d6-DMSO) δ: 12.8 (broad s, 1H, NH), 12.7 (broad s, 1H, NH), 8.03 (d, 1H), 7.69 (broad s, 1H), 6.74 (dd, 1H), 1.36 (s, 9H); HPLC/MS m/z: 291 [MH]+.

reactant | 3-tert-Butyl-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 0.153 mmol, 30 mg | C(C)(C)(C)C1=NNC=2N=C(SC21)N | C8H12N4S
reactant | pyridine | 0.92 mmol, 74 μL | N1=CC=CC=C1 | C5H5N
reactant | furan-2-carbonyl chloride | 0.76 mmol, 75 μL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | trisamine | 20 equiv. | C(C(CO)(CO)N)O | C4H11NO3
catalyst | DMAP | 6 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | furan-2-carboxylic acid (3-tert-butyl-1H-pyrazolo[3,4-d]thiazol-5-yl)-amide | 36 mg, 82% | C(C)(C)(C)C1=NNC=2N=C(SC21)NC(=O)C=2OC=CC2 | C13H14N4O2S
